US09126970B2
Step a): 10-(4′-Bromobiphenyl-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
20 g (70.58 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene and 33 g (105.87 mmol) of 4,4′-dibromobiphenyl are dissolved in toluene and degassed by introduction of a protective gas. 4.94 ml (4.94 mmol/1 M solution in toluene) of tri-tert-butylphosphine, 633.8 mg (2.82 mmol) of Pd(OAc)2 and 10.2 g (105.87 mmol) of NaOtBu are subsequently added. The solids are degassed in advance, the reaction mixture is subsequently degassed and then stirred under reflux for 5 h. The warm reaction solution is filtered through Alox B (activity grade 1), washed with water, dried and evaporated. Crystallisation from toluene gives 15.6 g (30.4 mmol) (43%) of the product as a white solid.

reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 70.58 mmol, 20 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | 4,4′-dibromobiphenyl | 105.87 mmol, 33 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | tri-tert-butylphosphine | 4.94 mmol, 1 M, 4.94 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOtBu | 105.87 mmol, 10.2 g | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 2.82 mmol, 633.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 10-(4′-Bromobiphenyl-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 30.4 mmol, 15.6 g, 43% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C | C33H24BrN
